US05081141
Preparation of 2-(4-chlorophenyl)-3-(1H-1,2,4-triazol-1-yl)-propanol
1.3 g of LiAlH4 is suspended in 170 ml of anhydrous diethyl ether under N2 atmosphere. Within one hour, 8 g of methyl α-(1H-1,2,4-triazol-1-ylmethyl)-4-chlorophenylacetate is introduced. The reaction is exothermic, and proceeds with solvent reflux. At the end of heat evolution, 10 ml of methanol in 50 ml of diethyl ether is added to destroy the excess of hydride.

reactant | LiAlH4 | 1.3 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl α-(1H-1,2,4-triazol-1-ylmethyl)-4-chlorophenylacetate | 8 g | N1(N=CN=C1)CC(C(=O)OC)C1=CC=C(C=C1)Cl | C12H12ClN3O2
reactant | methanol | 10 ml | CO | CH4O
solvent | diethyl ether | 170 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-(4-chlorophenyl)-3-(1H-1,2,4-triazol-1-yl)-propanol | ClC1=CC=C(C=C1)C(CO)CN1N=CN=C1 | C11H12ClN3O
